US05597921
A suspension of 3.96 g of 1,2-phenylenediamine and 7.00 g of 7-isatincarboxylic acid in 70 ml of acetic acid was heated under reflux for an hour. After completion of the reaction, the reaction solution was allowed to cool to room temperature, followed by addition of water, and resulting precipitate was collected by filtration. The thus obtained 7-indolo[2,3-b]quinolinecarboxylic acid and 170 ml of thionyl chloride were refluxed for 2 hours, and the excess thionyl chloride was evaporated. The residue, after addition of 250 ml of methanol, was stirred overnight. After addition of water, the resulting precipitate was collected by filtration, and purified by silica gel column chromatography to give methyl 7-indolo[2,3-b]quinoxalinecarboxylate.

reactant | 1,2-phenylenediamine | 3.96 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 7-isatincarboxylic acid | 7.00 g | N1C(=O)C(=O)C2=CC=CC(=C12)C(=O)O | C9H5NO4
reactant | water | O | H2O
reactant | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | methyl 7-indolo[2,3-b]quinoxalinecarboxylate | C1=C2N=C3C(NC2=CC=C1)=NC1=C(C=CC=C13)C(=O)OC | C16H11N3O2
